US09422493B2
2-(sec-Butyl)-4-tritylphenol
A 250 mL 1-neck flask was equipped with a magnetic stirrer and a reflux condenser with nitrogen blanket. The flask was charged with 6.52 grams (0.025 moles) of trityl alcohol, 3.77 grams (0.025 moles) of o-sec-butylphenol, and 50 mL of glacial acetic acid. The mixture was stirred under nitrogen at room temperature to give a clear, yellow solution. Concentrated sulfuric acid (5 mL) was then added in one portion. The solution immediately became dark red-brown. The solution was stirred at room temperature for 2 days, during which time solids separated out. The reaction mixture was filtered, and the solids were washed on the filter with several portions of water. After drying in a vacuum oven at 65° C. for 3 hours, the yield of product was 7.34 grams (75% yield). MP=135-136° C. GPC analysis showed a purity of >99%. The structure was confirmed by IR, 1H- and 13C-NMR analyses.

reactant | trityl alcohol | 0.025 moles, 6.52 grams | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)O | C19H16O
reactant | o-sec-butylphenol | 0.025 moles, 3.77 grams | C(C)(CC)C1=C(C=CC=C1)O | C10H14O
reactant | sulfuric acid | 5 mL | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 2-(sec-Butyl)-4-tritylphenol | 75% yield | C(C)(CC)C1=C(C=CC(=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O | C29H28O
